US05712286
A mixture of 2-chloro-6-methylnicotinic acid (25.00 g) and 33% methylamine in ethanol (100 ml) was heated in a pressure vessel at 100° C. for 18 hours. The mixture was cooled, diluted with water (200 ml) and acidified to pH 2-3 with concentrated hydrochloric acid. The mixture was cooled in an ice bath and filtered to give 6-methyl-2-methylaminonicotinic acid hemihydrochloride hydrate, m.p. 195°-197° C.

reactant | 2-chloro-6-methylnicotinic acid | 25.00 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 6-methyl-2-methylaminonicotinic acid hemihydrochloride hydrate | O.Cl.CC1=NC(=C(C(=O)O)C=C1)NC.CC1=NC(=C(C(=O)O)C=C1)NC.O | InChI=1S/2C8H10N2O2.ClH.2H2O/c2*1-5-3-4-6(8(11)12)7(9-2)10-5;;;/h2*3-4H,1-2H3,(H,9,10)(H,11,12);1H;2*1H2
